US08895571B2
Step C: (2S)-2-amino-3-{3-[(trimethylsilyl)ethynyl]phenyl}propan-1-ol
tert-Butyl ((1S)-2-hydroxy-1-{3-[(trimethylsilyl)ethynyl]benzyl}ethyl)carbamate (0.84 g, 2.4 mmol), methanol (2.0 mL, 49 mmol), and 4.0 M hydrogen chloride in dioxane (5.0 mL, 20 mmol) were mixed together and stirred at room temperature for 1 h. The solvent was removed under vacuum to give 0.61 g (98% yield) of the desired product. LC-MS found: 248.0 (m+1).

reactant | tert-Butyl ((1S)-2-hydroxy-1-{3-[(trimethylsilyl)ethynyl]benzyl}ethyl)carbamate | 2.4 mmol, 0.84 g | OC[C@H](CC1=CC(=CC=C1)C#C[Si](C)(C)C)NC(OC(C)(C)C)=O | C19H29NO3Si
reactant | methanol | 49 mmol, 2.0 mL | CO | CH4O
reactant | hydrogen chloride | 4.0 M | Cl | ClH
reactant | dioxane | 20 mmol, 5.0 mL | O1CCOCC1 | C4H8O2
product | (2S)-2-amino-3-{3-[(trimethylsilyl)ethynyl]phenyl}propan-1-ol | 0.61 g, 98% yield | N[C@H](CO)CC1=CC(=CC=C1)C#C[Si](C)(C)C | C14H21NOSi
